US06946554B2
2-Cyano-3-(3-pyridyl)propionaldehyde dimethylacetal
A mixture of 2-dimethoxymethyl-3-(3-pyridyl)acrylonitrile, obtained according to the process of Example 4 (20.4 6, 0.1 mol), absolute ethanol (200 mL) and sodium borohydride (1.6 g, 0.042 mol) was stirred at room temperature overnight. Most of the ethanol was evaporated in vacuo and the residue was partitioned between ethyl acetate (200 mL) and water (200 mL). The organic layer was separated, washed with saturated brine, dried (Na2SO4) and evaporated in vacuo. The residual oil was distilled in vacuo to give a pale-yellow oil (19.1 g, 93%), bp. 130-140° C. (0.2 mm Hg).

reactant | 2-dimethoxymethyl-3-(3-pyridyl)acrylonitrile | COC(C(C#N)=CC=1C=NC=CC1)OC | C11H12N2O2
reactant | sodium borohydride | 0.042 mol, 1.6 g | [BH4-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2-Cyano-3-(3-pyridyl)propionaldehyde dimethylacetal | 19.1 g, 93% | COC(C(CC=1C=NC=CC1)C#N)OC | C11H14N2O2
